US06689798B2
1M tetrabutylammonium fluoride solution in THF (16 ml, 16.00 mmol) was added to a THF (150 ml) solution of 3-(6-t-butyldimethyl silyloxybenzo[b]furan-3-yl)pyridine (5.2 g, 15.88 mmol) obtained above, and the mixture was stirred for 30 minutes at room temperature. The reaction mixture was concentrated under reduced pressure and the resulting concentrate was charged to short path silica gel column chromatography (chloroform:ethyl acetate=1:1-1:2). A white powder of 3-(3- pyridyl)benzo[b]furan-6-ol (2.7g, 79%) was then obtained by crystallization using ether-hexane.

reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-(6-t-butyldimethyl silyloxybenzo[b]furan-3-yl)pyridine | 15.88 mmol, 5.2 g | C(C)(C)(C)C=1C(=C(C2=C(OC(=C2C=2C=NC=CC2)O[SiH3])C1)C)C | C19H23NO2Si
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | THF | 16.00 mmol, 16 ml | C1CCOC1 | C4H8O
product | 3-(3- pyridyl)benzo[b]furan-6-ol | 2.7g, 79% | N1=CC(=CC=C1)C=1C2=C(OC1)C=C(C=C2)O | C13H9NO2
